US09034895B2
4-(2-(4,6-dichloro-2-methyl-1H-indol-1-yl)ethyl)morpholine
To a solution of 4,6-dichloro-2-methylindole (75 mg, 0.37 mmol) in 0.5 mL DMSO was added pulverized KOH (95 mg, 1.69 mmol), then 2-chloroethylmorpholine HCl (140 mg, 0.75 mmol) and the reaction stirred at room temperature overnight. The reaction mixture was partitioned between H2O and toluene, and the organic extract washed two times with H2O, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 10% MeOH in CH2Cl2 to give a final yield of 91 mg (0.29 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.42-2.55 (m, 4H), 2.44 (s, 3H), 2.60 (t, J=7.0 Hz, 2H), 3.65-3.79 (m, 4H), 4.08 (t, J=7.0 Hz, 2H), 6.31 (s, 1H), 7.09 (s, 1H), 7.16 (s, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.84, 41.59, 54.10, 57.79, 66.91, 98.99, 107.84, 119.47, 125.23, 125.51, 126.17, 137.22, 138.20. MS m/z 313.5 [M+H]+.

reactant | 4,6-dichloro-2-methylindole | 0.37 mmol, 75 mg | ClC1=C2C=C(NC2=CC(=C1)Cl)C | C9H7Cl2N
reactant | KOH | 1.69 mmol, 95 mg | [OH-].[K+]
reactant | 2-chloroethylmorpholine HCl | 0.75 mmol, 140 mg | Cl.ClCCN1CCOCC1
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 4-(2-(4,6-dichloro-2-methyl-1H-indol-1-yl)ethyl)morpholine | ClC1=C2C=C(N(C2=CC(=C1)Cl)CCN1CCOCC1)C | C15H18Cl2N2O
